US07923568B2
A mixture of (7R,8R,10aS)-6-chloro-3-[(4-methylphenyl)sulfonyl]-3,7,8,9,10,11-hexahydro-8,10a-methanoazuleno[2,1-e]indazol-7-ol and (7R,8R,10aS)-6-chloro-2-[(4-methylphenyl)sulfonyl]-2,7,8,9,10,11-hexahydro-8,10a-methanoazuleno[2,1-e]indazol-7-ol prepared as described in Step 2 (0.040 g, 0.091 mmol) was dissolved in methyl iodide (2 mL) and silver(I) oxide (0.080 g, 0.35 mmol) and calcium sulfate (0.080 g, 0.59 mmol) were added. The mixture was stirred at room temperature for two days. The reaction mixture was diluted with dichloromethane and filtered through a pad of silica gel, rinsing with EtOAc. The solvent was evaporated under reduced pressure and the residue was dissolved in ethanol (2 mL) and treated with 1N aqueous sodium hydroxide (0.30 mL, 0.30 mmol). After 2 hours, the reaction mixture was diluted with dichloromethane and dried over MgSO4. The solution was filtered through a pad of silica gel and the solvent was evaporated under reduced pressure. The residue was chromatographed on silica gel (elution with 1:1 EtOAc/hexanes) to yield (7R,8R,10aS)-6-chloro-7-methoxy-3,7,8,9,10,11-hexahydro-8,10a-methanoazuleno[2,1-e]indazole.

reactant | (7R,8R,10aS)-6-chloro-3-[(4-methylphenyl)sulfonyl]-3,7,8,9,10,11-hexahydro-8,10a-methanoazuleno[2,1-e]indazol-7-ol | ClC=1[C@@H]([C@@H]2CC[C@@]3(CC=4C=5C=NN(C5C=CC4C13)S(=O)(=O)C1=CC=C(C=C1)C)C2)O | C23H21ClN2O3S
reactant | (7R,8R,10aS)-6-chloro-2-[(4-methylphenyl)sulfonyl]-2,7,8,9,10,11-hexahydro-8,10a-methanoazuleno[2,1-e]indazol-7-ol | ClC=1[C@@H]([C@@H]2CC[C@@]3(CC=4C5=CN(N=C5C=CC4C13)S(=O)(=O)C1=CC=C(C=C1)C)C2)O | C23H21ClN2O3S
reactant | calcium sulfate | 0.59 mmol, 0.080 g | S(=O)(=O)([O-])[O-].[Ca+2]
reactant | sodium hydroxide | 0.30 mmol, 1N, 0.30 mL | [OH-].[Na+]
solvent | methyl iodide | 2 mL | CI | CH3I
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | silver(I) oxide | 0.35 mmol, 0.080 g | [Ag-]=O
product | (7R,8R,10aS)-6-chloro-7-methoxy-3,7,8,9,10,11-hexahydro-8,10a-methanoazuleno[2,1-e]indazole | ClC=1[C@@H]([C@@H]2CC[C@@]3(CC=4C=5C=NNC5C=CC4C13)C2)OC | C17H17ClN2O
